* Z:\mnt\design.r\spice\examples\1501-5.asc
L1 N001 N002 33µ
V1 IN 0 3
C1 OUT 0 220µ Rser=0.05
D1 N002 OUT 1N5818
XU1 IN IN N001 0 N002 N003 N004 OUT LT1501-5
R1 OUT 0 30
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1501-5.sub
.backanno
.end
